US08309720B2
4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile
To a 5-L round-bottom flask equipped with overhead mechanical stirrer, nitrogen inlet, and thermocouple probe were added 2-acetyl-3-dimethylamino-acrylonitrile (103.65 g, 0.75 mol), anhydrous potassium carbonate (powdered, not granular) (165.85 g, 1.2 mol), and N-[3-(1-methyl-piperidin-4-yl)-propyl]-guanidine (119.02 g, 0.60 mol) in ethanol (2.125 L). The resultant mixture was heated to reflux with stirring and held for 24 h. The resultant mixture was then concentration and the resultant residue partitioned between ethyl acetate (1.5 L) and 1 N NaOH (1.5 L). The layers were separated and the aqueous layer was extracted with additional ethyl acetate (2×1.5 L). The combined organic layers were concentrated to yield the title compound as a solid.

reactant | 2-acetyl-3-dimethylamino-acrylonitrile | 0.75 mol, 103.65 g | C(C)(=O)C(C#N)=CN(C)C | C7H10N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-[3-(1-methyl-piperidin-4-yl)-propyl]-guanidine | 0.60 mol, 119.02 g | CN1CCC(CC1)CCCNC(=N)N | C10H22N4
solvent | ethanol | 2.125 L | C(C)O | C2H6O
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
